US06495565B2
Methyl thioglycolate (5.0 mL, 55.0 mmol) was added dropwise to an ice cold solution of sodium methoxide (55.0 mmol) in methanol (18 mL) over 15 minutes. Methyl bromobutyrate (9.9 g, 55.0 mmol) was added slowly. The reaction was allowed to warm to room temperature and stirred overnight. The resulting mixture was filtered, concentrated, and taken up in methylene chloride and filtered again. The filtrate was concentrated and the product was distilled to give methyl 4-[(2-methoxy-2-oxoethyl)sulfanyl]butanoate (6.34 g, 55%) as a clear oil.

reactant | Methyl thioglycolate | 55.0 mmol, 5.0 mL | C(CS)(=O)OC | C3H6O2S
reactant | sodium methoxide | 55.0 mmol | C[O-].[Na+]
reactant | Methyl bromobutyrate | 55.0 mmol, 9.9 g | BrC(C(=O)OC)CC | C5H9BrO2
solvent | methanol | 18 mL | CO | CH4O
product | methyl 4-[(2-methoxy-2-oxoethyl)sulfanyl]butanoate | 6.34 g, 55% | COC(CSCCCC(=O)OC)=O | C8H14O4S
